US07452895B2
N4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine is prepared from 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydropyrrolo[3,4-d]oxazole-5-carboxylic acid tert-butyl ester by standard BOC deprotection methods using TFA in methylene chloride. MS APCI (+) m/z 468 (M+1) detected; 1H NMR (400 mHz, CD3OD) δ 8.42 (s, 1H), 8.21 (bs, 1H), 8.13 (d, 1H), 7.68 (m, 2H), 7.60 (m, 2H), 7.28 (m, 2H), 6.98 (d, 1H), 5.18 (m, 1H), 4.74 (m, 1H), 3.34 (d, 1H), 3.16 (d, 1H), 2.86 (m, 2H), 2.50 (s, 3H), 2.26 (s, 3H).

reactant | 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydropyrrolo[3,4-d]oxazole-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2N=C(OC2C1)NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C31H33N7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)NC=1OC2C(N1)CNC2 | C26H25N7O2
